US08420655B2
5-{1-tert-Butyl-2-[2-(2-methyl-2H-tetrazol-5-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a sealed vial is added 5-bromo-1-tert-butyl-2-[2-(2-methyl-2H-tetrazol-5-yl)-phenyl]-1H-benzimidazole (55 mg, 0.134 mmol) in DMF (3 mL), followed by the addition of 2-aminopyrimidine-5-boronic acid pinacol ester (35 mg, 0.158 mmol), tetrakis(triphenylphosphine)palladium(0) (15 mg, 0.013 mmol) and 2M aq. Na2CO3 (0.3 mL, 0.6 mmol). The reaction mixture is heated under Argon at 110° C. for 6 hours. The residue is diluted with EtOAc, washed with brine, dried under Na2SO4, filtered and concentrated. The residue is loaded onto a silica gel column. The column is eluted with 0-5% 7M NH3 in MeOH/CH2Cl2. The product fractions are collected and concentrated to afford the title compound (36 mg, 63%) as a off-white solid. LCMS (ESMS): m/z 426.70 (M++1)

reactant | 5-bromo-1-tert-butyl-2-[2-(2-methyl-2H-tetrazol-5-yl)-phenyl]-1H-benzimidazole | 0.134 mmol, 55 mg | BrC1=CC2=C(N(C(=N2)C2=C(C=CC=C2)C=2N=NN(N2)C)C(C)(C)C)C=C1 | C19H19BrN6
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | 0.158 mmol, 35 mg | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
reactant | Na2CO3 | 0.6 mmol, 2M, 0.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.013 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{1-tert-Butyl-2-[2-(2-methyl-2H-tetrazol-5-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 36 mg, 63% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC=C2)C=2N=NN(N2)C | C23H23N9
